US05543518
2-[2,4-Dihydroxy-5-(1-methyl-1-phenylethyl)phenyl]-4,6-bis-(2,4-dimethylphenyl)-s-triazine
To a 1 L three-necked, round-bottomed flask equipped with a magnetic stirrer, condenser, dropping funnel, thermometer, and a nitrogen atmosphere are charged 15.0 g (37.8 mmol) of 2-(2,4-dihydroxyphenyl)-4,6-bis-(2,4-dimethylphenyl)-s-triazine and 390 mg of aluminum isopropoxide. The mixture is heated to 175° C. and 4.47 g (37.9 mmol) of α-methylstyrene are added dropwise at a rate of one drop every two seconds. A total of six equivalents of a-methyl styrene are added in this fashion over a 4.5 hour period. After cooling to room temperature, the mixture is diluted with ethyl acetate, washed twice with water and once with brine, and is dried over anhydrous magnesium sulfate. Following filtration, the solvent is removed under reduced pressure to yield a yellow solid. The crude product is purified with medium pressure chromatography with 12% ethyl acetate/heptane to afford 13.2 g of the title compound as a yellow solid; mp 168°-170° C.

reactant | 2-(2,4-dihydroxyphenyl)-4,6-bis-(2,4-dimethylphenyl)-s-triazine | 37.8 mmol, 15.0 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C25H23N3O2
reactant | α-methylstyrene | 37.9 mmol, 4.47 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | a-methyl styrene | six equivalents | CC(=C)C1=CC=CC=C1 | C9H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | aluminum isopropoxide | 390 mg | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
product | 2-[2,4-Dihydroxy-5-(1-methyl-1-phenylethyl)phenyl]-4,6-bis-(2,4-dimethylphenyl)-s-triazine | 13.2 g | OC1=C(C=C(C(=C1)O)C(C)(C1=CC=CC=C1)C)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C34H33N3O2
